US04188325
By reacting 7-methylisatin with phosphorous pentachloride, there is obtained 7-methylisatin chloride which, on reaction with 5,6,7-trichloro 3(2H)-thianaphtheneone, yields 5,6,7-trichloro-7'-methyl-2'-indole-2-thianaphthene indigo, which also is useful as a dyestuff.

reactant | 7-methylisatin | CC=1C=CC=C2C(C(NC12)=O)=O | C9H7NO2
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 7-methylisatin chloride | [Cl-].CC=1C=CC=C2C(C(NC12)=O)=O | InChI=1S/C9H7NO2.ClH/c1-5-3-2-4-6-7(5)10-9(12)8(6)11;/h2-4H,1H3,(H,10,11,12);1H/p-1
